US08629137B2
3-{1-[3-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-phenyl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
Under an argon atmosphere 330 mg (1.20 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 350 mg (1.01 mmol) 6-(3-bromo-benzoyl)-3,4-dimethyl-3H-benzoxazol-2-one and 586 mg (1.80 mmol) caesium carbonate were stirred in 10 mL xylene, then combined with 56 mg (0.090 mmol) BINAP and 20 mg (0.089 mmol) palladium(II)acetate and stirred for 48 h at 100° C. The mixture was evaporated down i. vac., the residue was dissolved in DMF/MeOH and purified by preparative HPLC-MS. The fractions containing the product were combined and the acetonitrile was evaporated down. The aqueous residue was made basic with 1N aqueous sodium hydroxide solution, the precipitate formed was suction filtered and washed with water and dried. The product was again purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 1.20 mmol, 330 mg | COC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C15H21N3O2
reactant | 6-(3-bromo-benzoyl)-3,4-dimethyl-3H-benzoxazol-2-one | 1.01 mmol, 350 mg | BrC=1C=C(C(=O)C2=CC3=C(N(C(O3)=O)C)C(=C2)C)C=CC1 | C16H12BrNO3
reactant | caesium carbonate | 1.80 mmol, 586 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.090 mmol, 56 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium(II)acetate | 0.089 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-{1-[3-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-phenyl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C=2C=C(C=CC2)N2CCC(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)C)=O | C31H32N4O5
